US07799096B2
Preparation of 4-hydroxy-3-methoxy-5-(pyrrolidin-1-ylmethyl)benzaldehyde (A2)
21.3 g (0.30 mol) of pyrrolidine were added to 24.0 g (0.30 mol) of a 37% aqueous formaldehyde solution in 180 ml of ethanol. Then 30.4 g (0.20 mol) of 4-hydroxy-3-methoxybenzaldehyde (vanillin) were added. The mixture was refluxed for three hours. A solid began to precipitate out as early as during cooling, which was filtered out after complete cooling of the reaction batch and dried.

reactant | pyrrolidine | 0.30 mol, 21.3 g | N1CCCC1 | C4H9N
reactant | formaldehyde | C=O | CH2O
reactant | 4-hydroxy-3-methoxybenzaldehyde (vanillin) | 0.20 mol, 30.4 g | COC1=C(C=CC(=C1)C=O)O | C8H8O3
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 4-hydroxy-3-methoxy-5-(pyrrolidin-1-ylmethyl)benzaldehyde | OC1=C(C=C(C=O)C=C1CN1CCCC1)OC | C13H17NO3
